US08105662B2
c) (2S)-2-methylbutyl 2,5-bis[(4-{[6-(acryloyloxy)hexyl]oxy}benzoyl)oxy]benzoate; Additive Nr. 3
A mixture consisting of 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid (2.92 g), (2S)-2-methylbutyl 2,5-dihydroxybenzoate (1.1 g), DMAP (0.24 g) and EDC (2 g) in CH2Cl2 (30 ml) was stirred for 6 h at room temperature. The yellowish reaction mixture was then evaporated to dryness and the obtained pasty residue was purified by column chromatography over silica to give nearly pure material as transparent oil which becomes pasty upon standing for about 24 h.

reactant | 4-{[6-(acryloyloxy)hexyl]oxy}benzoic acid | 2.92 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | (2S)-2-methylbutyl 2,5-dihydroxybenzoate | 1.1 g | OC1=C(C(=O)OC[C@H](CC)C)C=C(C=C1)O | C12H16O4
reactant | EDC | 2 g
catalyst | DMAP | 0.24 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-methylbutyl 2,5-bis[(4-{[6-(acryloyloxy)hexyl]oxy}benzoyl)oxy]benzoate | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=C(C(=O)OC[C@H](CC)C)C=C(C=C2)OC(C2=CC=C(C=C2)OCCCCCCOC(C=C)=O)=O)C=C1 | C44H52O12
